US09303007B2
TFA (2 mL, 26.0 mmol) was added in one portion to a stirred solution of (S)-tert-butyl 2-(7-(6-(2-((S)-1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-1H-imidazol-5-yl)naphthalen-2-yl)-1H-naphtho[1,2-d]imidazol-2-yl)pyrrolidine-1-carboxylate (137 mg) in CH2Cl2 (10 mL) at room temperature. The mixture was stirred for 2 h at room temp. and then the solvents were removed in vacuo. The residue was taken up in 50% methanol/CH2Cl2 and filtered through an MCX cartridge (Strata XC). The cartridge was washed with methanol and the compound was eluted with a solution of NH3 in methanol (2M). The appropriate fractions were concentrated in vacuo to afford 2-((S)-pyrrolidin-2-yl)-7-(6-(2-((S)-pyrrolidin-2-yl)-1H-imidazol-5-yl)naphthalen-2-yl)-1H-naphtho[1,2-d]imidazole (98 mg, 0.20 mmol) as orange solid. LC-MS retention time 1.245 min; m/z 499.30 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire 5u C18 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% MeOH/90% H2O/0.1% TFA and Solvent B was 10% H2O/90% MeOH/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (TFA salt, 500 MHz, MeOD) δ ppm 8.59 (d, J=8.5 Hz, 1H), 8.43 (d, J=1.5 Hz, 1H), 8.36 (s, 1H), 8.31 (s, 1H), 8.13 (dd, J=8.6, 1.8 Hz, 1H), 8.01-8.10 (m, 3H), 7.90-7.98 (m, 2H), 7.87 (s, 1H), 7.80 (d, J=8.6 Hz, 1H), 5.18 (t, J=7.9 Hz, 1H), 5.05 (t, J=8.1 Hz, 1H), 3.63-3.72 (m, 1H), 3.52-3.63 (m, 3H), 2.61-2.77 (m, 2H), 2.45-2.58 (m, 2H), 2.33-2.43 (m, 2H), 2.20-2.33 (m, 2H).

reactant | TFA | 26.0 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (S)-tert-butyl 2-(7-(6-(2-((S)-1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-1H-imidazol-5-yl)naphthalen-2-yl)-1H-naphtho[1,2-d]imidazol-2-yl)pyrrolidine-1-carboxylate | 137 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=1NC(=CN1)C=1C=C2C=CC(=CC2=CC1)C=1C=C2C=CC3=C(NC(=N3)[C@H]3N(CCC3)C(=O)OC(C)(C)C)C2=CC1 | C42H46N6O4
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-((S)-pyrrolidin-2-yl)-7-(6-(2-((S)-pyrrolidin-2-yl)-1H-imidazol-5-yl)naphthalen-2-yl)-1H-naphtho[1,2-d]imidazole | 0.20 mmol, 98 mg | N1[C@@H](CCC1)C1=NC2=C(N1)C1=CC=C(C=C1C=C2)C2=CC1=CC=C(C=C1C=C2)C2=CN=C(N2)[C@H]2NCCC2 | C32H30N6
